US07531532B2
2-{[4-(1-Methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}-4-{4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine (130 mg) and (+)-10-camphorsulfonic acid (138 mg) in ethanol (3.0 ml) was added a solution of 2-phenylacetyl isothiocyanate in toluene (0.25 M, 2.5 ml) at room temperature, followed by stirring for 3 hours. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=98:2) to provide the titled compound (48.5 mg, 26%) as white powder.

reactant | 4-(4-aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 130 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1 | C22H30N6O2
reactant | (+)-10-camphorsulfonic acid | 138 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2-phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
solvent | toluene | 0.25 M, 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{[4-(1-Methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}-4-{4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine | 48.5 mg, 26% | CN1CCN(CC1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C31H37N7O3S
